US06511974B1
[4-(1-methoxymethyl-1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]-benzodiazepin-10-yl)-methanone
In the manner of Example 25, employing [4-(1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (1.0 g), 60% sodium hydride in oil (0.15 g), dimethylformamide (25 ml), and iodomethyl methyl ether (0.50 g), the title compound (0.26 g) was obtained as an amorphous solid, MS, m/z: 399.2(M+H)+, 797.2 (2M+H)+.

reactant | [4-(1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 1.0 g | N1N=C(C=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C22H18N4O
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethyl methyl ether | 0.50 g | COCI | C2H5IO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | [4-(1-methoxymethyl-1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]-benzodiazepin-10-yl)-methanone | 0.26 g | COCN1N=C(C=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C24H22N4O2
